USRE041439E1
1S,4S)-2-(5-(3-Methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane
To a stirred solution of (1S,4S)-5-(5-(3-methoxyphenoxy)-3-pyridyl)-2-tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane (0.62 g, 1.5 mmol) in anisole (3.5 mL) at 0-5° C. and under a nitrogen atmosphere, trifluoroacetic acid (2.5 mL) was added drop-wise over a 10 min period. After 0.5 h at 25° C., the solution was adjusted to pH 5 using 10% NaOH, followed by extraction with diethyl ether (1×15 mL) to remove the anisole. The aqueous portion was adjusted to pH 11 using 10% NaOH, followed by extraction with diethyl ether (3×25 mL). The combined diethyl ether extracts were dried (Na2SO4), filtered, and concentrated under vacuum to give a colorless oil (0.41 g, 82%).

reactant | 2,5-diazabicyclo[2.2.1]heptane | 1.5 mmol, 0.62 g | C12NCC(NC1)C2 | C5H10N2
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
reactant | anisole | 3.5 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-(5-(3-Methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane | 0.41 g, 82% | COC=1C=C(OC=2C=C(C=NC2)N2C3CNC(C2)C3)C=CC1 | C17H19N3O2
